US07488740B2
8. 7-[3-(Trifluoromethyl)pyridin-2-yl]-4-{[5-(trifluoromethyl)pyridin-2-yl]amino}-[1,5]naphthyridin-2-ol
Heat a solution of 2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-[1,5]naphthyridin-4-amine (300 mg) in 33% hydrogen bromide in acetic acid (10 mL) at 100° C. for 18 hours. Evaporate to dryness, add saturated aqueous sodium bicarbonate (10 mL) and extract with EtOAc. Dry over Na2SO4, and concentrate under vacuum.

reactant | 2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-[1,5]naphthyridin-4-amine | 300 mg | COC1=NC2=CC(=CN=C2C(=C1)NC1=NC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C21H13F6N5O
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 7-[3-(Trifluoromethyl)pyridin-2-yl]-4-{[5-(trifluoromethyl)pyridin-2-yl]amino}-[1,5]naphthyridin-2-ol | FC(C=1C(=NC=CC1)C1=CN=C2C(=CC(=NC2=C1)O)NC1=NC=C(C=C1)C(F)(F)F)(F)F | C20H11F6N5O
